US07470699B2
Preparation of 4-[5-Cyano-6-(2-fluoro-4-morpholin-4-yl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (Compound A71)
A mixture of 4-[5-cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester (60 mg, 0.114 mmol), morpholine (50 μL, 0.571 mmol), CuI (21 mg, 0.114 mmol), proline (23 mg, 0.205 mmol) and potassium carbonate (36 mg, 0.262 mmol) in DMSO (1 mL) was heated in microwave for 30 minutes at 80° C. The mixture was purified by HPLC to give Compound A71 as a solid (25.1 mg, 45%). 1H NMR (CDCl3, 400 MHz) δ (ppm): 8.31 (s, 1H), 7.61 (t, 1H), 7.08 (s, 1H), 6.69 (m, 2H), 5.35 (m, 1H), 4.86 (m, 1H), 3.82 (m, 4H), 3.68 (m, 2H), 3.38 (m, 2H), 3.19 (m, 4H), 1.90 (m, 2H), 1.75 (m, 2H), 1.18 (d, 6H). Exact mass calculated for C24H29FN6O4 484.22, found 485.2 (MH+).

reactant | 4-[5-cyano-6-(2-fluoro-4-iodo-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 0.114 mmol, 60 mg | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)I)F | C20H21FIN5O3
reactant | morpholine | 0.571 mmol, 50 μL | N1CCOCC1 | C4H9NO
reactant | proline | 0.205 mmol, 23 mg | N1[C@H](C(=O)O)CCC1 | C5H9NO2
reactant | potassium carbonate | 0.262 mmol, 36 mg | C([O-])([O-])=O.[K+].[K+]
solvent | DMSO | 1 mL | CS(=O)C | C2H6OS
catalyst | CuI | 0.114 mmol, 21 mg | [Cu]I
product | 4-[5-Cyano-6-(2-fluoro-4-morpholin-4-yl-phenylamino)-pyrimidin-4-yloxy]-piperidine-1-carboxylic acid isopropyl ester | 25.1 mg, 45% | C(C)(C)OC(=O)N1CCC(CC1)OC1=NC=NC(=C1C#N)NC1=C(C=C(C=C1)N1CCOCC1)F | C24H29FN6O4
